// =============================================================================
// FILE: 03_IF_Filter.scs
// TITLE: 4th-Order Gm-C Bandpass Filter — 200 MHz Center, 20 MHz BW
// PROCESS: Generic 180nm CMOS
// AUTHOR: RF RX Front-End Project
//
// TARGET SPECS:
//   Center frequency (f0):  200 MHz ± 1%
//   3-dB bandwidth (BW):    20 MHz (matching OFDM 20 MHz channel)
//   Passband ripple:        < 0.5 dB
//   Stopband attenuation:   > 40 dB at ±40 MHz from center (i.e., at 160 & 240 MHz)
//   Insertion loss:         < 3 dB
//   IIP3:                   > +10 dBm
//   PDC:                    < 20 mW
//
// THEORY OF OPERATION:
//   At 200 MHz, passive LC filters require nH-range inductors that are impractical
//   on-chip (typically need 10-100 nH for 200 MHz; on-chip spirals max ≈ 10-20 nH
//   with poor Q). Gm-C replaces inductors with OTA (Gm cell) + capacitor pairs.
//
//   A Gm-C biquad section (2nd order) is built as:
//
//       ┌────Gm1──────────────────┐
//       │                         │ (integrator 1)
//      IN ─►─[C1]─►─Gm2─►─[C2]─►─ OUT
//                   │              │
//                   └──────Gm3────┘ (Q control / loss compensation)
//                   │              │
//                   └──────Gm4────┘ (bandpass tap)
//
//   Two such biquads in cascade give 4th-order Butterworth bandpass response.
//
// 4TH-ORDER BUTTERWORTH BANDPASS DESIGN:
//   Split into two 2nd-order sections with different Q factors:
//     Section 1 (lower Q):  Q1 = 3.5
//     Section 2 (higher Q): Q2 = 8.5
//   Both centered at f0 = 200 MHz
//
// GM CELL VALUES:
//   For a 2nd-order Gm-C BPF biquad:
//     ω0 = √(Gm1·Gm2) / C     → f0 = 200 MHz
//     Q  = ω0·C / Gm3          → bandwidth = f0/Q
//
//   Design choice: C = 500 fF (on-chip MIM capacitor, practical size)
//     ω0 = 2π × 200 MHz = 1.2566 × 10⁹ rad/s
//     Gm1 = Gm2 = ω0 × C = 1.2566e9 × 500e-15 = 628 μA/V
//
//   Section 1 (Q1 = 3.5):
//     Gm3_1 = ω0 × C / Q1 = 1.2566e9 × 500e-15 / 3.5 = 179 μA/V
//
//   Section 2 (Q2 = 8.5):
//     Gm3_2 = ω0 × C / Q2 = 1.2566e9 × 500e-15 / 8.5 = 73.9 μA/V
//
//   Note: Gm cells are tunable via bias current. Fine-tune in simulation.
// =============================================================================

// ---- Model include ----
// include "/opt/pdk/tsmc180nm/models/spectre/tt.scs" section=tt

// ============================================================
// GLOBAL PARAMETERS
// ============================================================
parameters
+ VDD   = 1.8
+ VCM   = 0.9           // Common-mode voltage (VDD/2 for symmetric swing)
+ C_val = 500f          // Integration capacitor (MIM or MOM capacitor)
+ Gm0   = 628u          // Base transconductance = ω0 × C (for f0=200MHz, C=500fF)
+ Gm_Q1 = 179u          // Q-control Gm for biquad 1 (Q=3.5)
+ Gm_Q2 = 74u           // Q-control Gm for biquad 2 (Q=8.5)

// ============================================================
// GmCell SUBCIRCUIT — Differential OTA (Operational Transconductor)
// Simple differential pair with tail current — tune ID for target Gm
//
// Gm ≈ √(2 × μn×Cox × W/L × ID) for long-channel NMOS
//   Target Gm = 628 μA/V:
//   With W=20μm, L=180nm: kn ≈ 270μA/V² × (20/0.18) = 30 mA/V²
//   ID = Gm² / (2 × kn) = (628e-6)² / (2 × 30e-3) = 6.6 μA
//   Hmm too low — use W=5μm, L=500nm for better linearity trade-off:
//   kn = 270μA/V² × (5/0.5) = 2.7 mA/V²
//   ID = (628e-6)² / (2 × 2.7e-3) = 73 μA per cell — reasonable
//
// PMOS load (diode-connected) or PMOS current mirror for active load
// Ports: INp, INm — differential input
//        OUTp, OUTm — differential output
//        VDD, GND — supply
//        IBIAS — bias current input (from current mirror)
// ============================================================
subckt GmCell_diff (INp INm OUTp OUTm VDD GND IBIAS)
parameters Gm_target=628u

  // NMOS differential pair
  Mn1  (OUTm  INp  net_tail_gm  GND)  nmos  w=5u  l=500n  nf=2
  Mn2  (OUTp  INm  net_tail_gm  GND)  nmos  w=5u  l=500n  nf=2

  // PMOS active load (current mirror)
  Mp1  (OUTm  OUTm  VDD  VDD)  pmos  w=8u  l=500n  nf=2  // diode-connected
  Mp2  (OUTp  OUTm  VDD  VDD)  pmos  w=8u  l=500n  nf=2  // mirror output

  // Tail current source
  Mtail  (net_tail_gm  IBIAS  GND  GND)  nmos  w=4u  l=500n  nf=2

  // Common-mode feedback (simplified — use ideal CMFB in first pass)
  // Full CMFB circuit needed for proper CM stabilization
  Rcmfb_p  (OUTp  net_cm_sense)  resistor  r=20k
  Rcmfb_m  (OUTm  net_cm_sense)  resistor  r=20k
  // net_cm_sense tracks output CM; feed back to tail CMFB amp (not shown)
  // For first simulation, use ideal voltage source at output CM

ends GmCell_diff

// ============================================================
// BIQUAD SUBCIRCUIT — 2nd Order Gm-C Bandpass Section
//
// Transfer function: H(s) = (Gm1/C) × s / (s² + (Gm3/C)×s + Gm1×Gm2/C²)
//   ω0 = √(Gm1×Gm2)/C,  Q = ω0×C/Gm3,  Peak gain = Gm1/Gm3 = Q
//
// Ports: IN — input signal
//        OUT — bandpass output
//        VDD, GND
//        Ibias0 — bias for Gm1, Gm2 (sets ω0)
//        IbiasQ — bias for Gm3 (sets Q)
// ============================================================
subckt BPF_Biquad (INp INm OUTp OUTm VDD GND Ibias0 IbiasQ)

  // Gm1: input transconductor → drives integrator 1
  XGm1  (INp INm  net_int1p net_int1m  VDD GND Ibias0)  GmCell_diff

  // C1: integration capacitors (integrator 1 output)
  C1p  (net_int1p  VCM_ref)  capacitor  c=C_val
  C1m  (net_int1m  VCM_ref)  capacitor  c=C_val

  // Gm2: integrator 2 — driven by integrator 1 output → produces bandpass
  XGm2  (net_int1p net_int1m  OUTp OUTm  VDD GND Ibias0)  GmCell_diff

  // C2: integration capacitors (integrator 2 = BPF output)
  C2p  (OUTp  VCM_ref)  capacitor  c=C_val
  C2m  (OUTm  VCM_ref)  capacitor  c=C_val

  // Gm3: Q-control feedback (output fed back to integrator 1 input)
  // This sets the Q = ω0×C/Gm3
  XGm3  (OUTp OUTm  net_int1p net_int1m  VDD GND IbiasQ)  GmCell_diff

  // Gm4: feedthrough from input to output (for bandpass gain = Gm1/Gm3)
  // (included implicitly — adjust topology for exact gain normalization)

  // VCM reference for capacitor bottom plates
  VCM_ref  (VCM_ref  GND)  vsource  type=dc  dc=VCM

ends BPF_Biquad

// ============================================================
// 4TH-ORDER BANDPASS FILTER (two cascaded biquads)
// ============================================================
subckt BPF_4thOrder (INp INm OUTp OUTm VDD GND)

  // Bias current sources
  // Ibias0: sets Gm0 = 628 μA/V for f0 = 200 MHz
  Vbias0   (net_bias0  GND)  vsource  type=dc  dc=0.6   // adjust for target ID
  Mbias0   (net_Ibias0  net_bias0  GND  GND)  nmos  w=4u  l=500n
  // (replicate for each Gm cell — use current mirror tree in full design)

  // Biquad 1: Q = 3.5
  // Gm3_1 = Gm0/Q1 = 628μ/3.5 = 179 μA/V
  // Achieved by scaling W of Gm3: W_Q1 = W0 × (179/628) ≈ 0.285 × W0
  Vbias_Q1  (net_biasQ1  GND)  vsource  type=dc  dc=0.52  // tune for Gm_Q1
  MbiasQ1   (net_IbiasQ1  net_biasQ1  GND  GND)  nmos  w=1.5u  l=500n

  XBPF1  (INp INm  net_mid_p net_mid_m  VDD GND net_Ibias0 net_IbiasQ1) BPF_Biquad

  // Biquad 2: Q = 8.5
  // Gm3_2 = Gm0/Q2 = 628μ/8.5 = 73.9 μA/V
  Vbias_Q2  (net_biasQ2  GND)  vsource  type=dc  dc=0.48  // tune for Gm_Q2
  MbiasQ2   (net_IbiasQ2  net_biasQ2  GND  GND)  nmos  w=0.6u  l=500n

  XBPF2  (net_mid_p net_mid_m  OUTp OUTm  VDD GND net_Ibias0 net_IbiasQ2) BPF_Biquad

ends BPF_4thOrder

// ============================================================
// TEST BENCH
// ============================================================

Vsupply  (VDD GND)  vsource  type=dc  dc=VDD

// IF input: differential source from mixer output
// Use single-ended with ideal balun, or true differential
Vin_p  (INp GND)  vsource  type=sine  freq=200M  amp=10m
Vin_m  (INm GND)  vsource  type=sine  freq=200M  amp=-10m

// Output load (represents ADC input capacitance)
Rout_p  (OUTp GND)  resistor  r=10k
Rout_m  (OUTm GND)  resistor  r=10k
Cout_p  (OUTp GND)  capacitor  c=200f
Cout_m  (OUTm GND)  capacitor  c=200f

// Instantiate filter
XFILT  (INp INm OUTp OUTm VDD GND)  BPF_4thOrder

// ============================================================
// SIMULATION 1: DC Operating Point
// Verify: all OTA transistors in saturation
//         VCM at output ≈ VDD/2 (if CMFB is correct)
//         Total current ≈ 10-15 mA
// ============================================================
DC_OP dc

// ============================================================
// SIMULATION 2: AC Frequency Response (key simulation)
// Sweep 50 MHz to 400 MHz — observe bandpass response
// Check at 200 MHz:
//   |H(j2π×200M)| → passband gain (should be ≈ 0 dB or small loss)
// Check at 160 MHz and 240 MHz (±40 MHz from center):
//   Attenuation > 40 dB (stopband spec)
// Measure 3-dB frequencies → BW should be 190-210 MHz range (20 MHz BW)
// ============================================================
AC_sweep ac start=50M stop=400M step=1M

// ============================================================
// SIMULATION 3: Transient — Group Delay Check
// Apply 20 MHz bandwidth square wave at IF
// Observe step response: overshoot indicates Q is too high
// OFDM is sensitive to group delay variation across band:
//   Target: group delay variation < ±10 ns across 20 MHz passband
// ============================================================
Tran_check tran stop=100n maxstep=100p

// ============================================================
// SIMULATION 4: Output Noise
// Run noise analysis after AC
//   Input-referred noise at 200 MHz should be:
//   Vn_in < 10 nV/√Hz (for SNR budget)
// ============================================================
Noise_filter noise start=50M stop=400M step=1M \
  iprobe=Vin_p oprobe=OUTp

// ============================================================
// SIMULATION 5: IIP3 of Filter
// Two tones at 199 MHz and 201 MHz (in-band, Δf=2 MHz)
// IM3 at 197 MHz and 203 MHz (in-band → sets filter IIP3)
// Expected IIP3 > +10 dBm (filter is linear, IIP3 mainly limits ADC headroom)
// ============================================================
// Vt1 (INp GND) vsource type=sine freq=199M amp=100m
// Vt2 (INp GND) ... (use two-tone PSS)

save VDD INp INm OUTp OUTm net_mid_p net_mid_m

